US05998433
g) Synthesis of 1-[2-(2-oxazolin-2-yl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one
To a solution of 0.884 g (2.590 mmol) of 6-(6-phenylhexanoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylic acid, 0.16 g (2.59 mmol) of 2-aminoethanol, 1.08 ml (7.77 mmol) of triethylamine and 2.50 ml (25.9 mmol) of carbon tetrachloride in 50 ml of acetonitrile, 2.04 g (7.77 mmol) of triphenylphosphine was added under ice-cooling, followed by stirring at room temperature for 4 hours. The reaction mixture was poured into water and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel flush column chromatography (ethyl acetate to ethyl acetate/methanol=20/1) to yield the desired product.

reactant | 6-(6-phenylhexanoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylic acid | 2.590 mmol, 0.884 g | C1(=CC=CC=C1)CCCCCC(=O)N1CC2=C(CC1)C=C(O2)C(=O)O | C20H23NO4
reactant | 2-aminoethanol | 2.59 mmol, 0.16 g | NCCO | C2H7NO
reactant | triethylamine | 7.77 mmol, 1.08 ml | C(C)N(CC)CC | C6H15N
reactant | carbon tetrachloride | 25.9 mmol, 2.50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 7.77 mmol, 2.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[2-(2-oxazolin-2-yl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one | O1C(=NCC1)C1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | C22H26N2O3
